data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_444530_0,[C:1](/[C:4]([N:2]([N:3]([C:5](=[O:8])[H:12])[H:11])[H:10])=[N:7]\[O:6][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([N:7]([C:5](=[O:8])[H:12])[O:6][H:9])[N:2]([H:10])[N:3]1[H:11])([H:13])([H:14])[H:15],71.03739249999279
MR_124327_0,[C:1]([C:2](=[N:6]\[N:3]([H:8])[H:9])/[N:7]=[C:5](\[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]1=[N:7][C:5]([N:4]([H:10])[H:11])([H:12])[N:6]1[N:3]([H:8])[H:9])([H:13])([H:14])[H:15],28.330997499987944
MR_203239_1,[N:1]1([N:2]([H:7])[H:8])[C:3]2([H:9])[C:4]1([H:10])[C:5]([H:11])=[N:6]2>>[n:1]1([N:2]([H:7])[H:8])[c:3]([H:9])[n:6][c:5]([H:11])[c:4]1[H:10],21.36888499998065
MR_408147_1,[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]\[H:11])([N:5]([H:9])[H:10])([O:6][C:2]([H:12])([H:13])[H:14])[H:8]>>[C:1]1([N:5]([H:9])[H:10])([H:8])[C:4]([C:3]([H:15])([H:16])[H:17])([O:6][C:2]([H:12])([H:13])[H:14])[N:7]1[H:11],53.06077250000811
MR_154824_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([N:6]([H:12])[H:13])[H:11])=[O:8])([O:7][H:9])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([N:6]([H:12])[H:13])[H:11])([O:8][H:9])[H:10])=[O:7],42.82248249999711
MR_533556_0,[C:1](\[N:2]([H:8])[H:9])([N:5][N:4][N:6][C:3]([H:11])[H:12])=[N:7]/[H:10]>>[C:1]([N:5][N:4][N:6]([N:2]([H:8])[H:9])[C:3]([H:11])[H:12])[N:7][H:10],70.09739750004755
MR_295665_1,[C:1]([C:2](=[O:5])[H:9])([O:3][O:4][H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([O:3][O:4][H:6])([H:9])[O:5]1,72.25662499998208
MR_399295_0,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C@:2](/[C:7]([N:8]([H:11])[H:12])=[N:9]/[C:6]([H:21])([H:22])[H:23])([H:10])[C:3]1([H:13])[H:14]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:3]([H:13])([H:14])[C:2]([H:10])=[C:7]([N:8]([H:11])[H:12])[N:9]1[C:6]([H:21])([H:22])[H:23],51.16697750000981
MR_170827_1,[C:1]([C:4]([C:3](/[C:2]([N:6]([H:12])[H:13])=[N:9]/[N:5]([H:10])[H:11])[N:7]([H:14])[H:15])[N:8]([H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C@@:4]1([N:8]([H:16])[H:17])[C:3]([N:7]([H:14])[H:15])=[C:2]([N:6]([H:12])[H:13])[N:9]1[N:5]([H:10])[H:11])([H:18])([H:19])[H:20],36.35358500002866
MR_433812_1,[C:1]([n:3]1[c:4](=[O:9])[o:7][c:6]([C:2]([H:14])([H:15])[H:16])[c:5]1[O:8][H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:5](/[C:6]1([C:2]([H:14])([H:15])[H:16])[C:4](=[O:9])[O:7]1)[O:8][H:10])([H:11])([H:12])[H:13],70.81023749995992
MR_240637_2,[C:1](/[C:2]([O:6][C:4](=[C:5]([H:14])[H:15])[H:10])=[N:7]/[N:3]([H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1](/[C:2]([C:5]([C:4](=[O:6])[H:10])([H:14])[H:15])=[N:7]/[N:3]([H:8])[H:9])([H:11])([H:12])[H:13],51.55665500002471
MR_344923_0,[C:1](/[C:3](=[C:2](\[O:6][H:8])[N:7]=[C:5]([H:14])[H:15])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([N:4]([H:9])[H:10])[C:2]([O:6][H:8])=[N:7][C:5]1([H:14])[H:15])([H:11])([H:12])[H:13],46.45319749996176
MR_603538_1,[C:1]([N:5]([C:2]([H:15])([H:16])[H:17])/[C:6]([O:8][N:9]=[C:7]([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])=[N:10]/[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:5]([C:2]([H:15])([H:16])[H:17])[C:7]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])[N:9]1/[C:6](=[N:10]/[H:11])[O:8]1)([H:12])([H:13])[H:14],64.7398024999842
MR_631796_0,[C:1]([C:2]([N:4]=[O:5])=[O:7])([O:3][H:8])=[O:6]>>[C:1]([C:2]([O:3][H:8])=[O:7])([N:4]=[O:5])=[O:6],51.4863750000238
MR_115918_0,[C:1]([C:4](=[C:6](/[C:3]([H:16])([H:17])[H:18])[H:9])/[N:7]=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[N:7][C:5]([C:2]([H:13])([H:14])[H:15])([H:8])[C:6]1([C:3]([H:16])([H:17])[H:18])[H:9])([H:10])([H:11])[H:12],42.48990749998072
MR_28044_1,[C:1]([C:4]([N:3]([C:5]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:15])[H:16])[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1](/[C:4](=[N:3]\[H:8])[O:7][C:5]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:15])[H:16])([H:9])([H:10])[H:11],63.58457500001165
MR_553817_1,[C:1]([C:3]([O:8][H:11])=[O:9])([N:4]([H:12])[H:13])(/[C:5](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])[O:7][H:10]>>[C:1](\[N:4]([H:12])[H:13])(=[C:5](\[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([O:8][H:11])=[O:9])[H:15])[H:14])[O:7][H:10],67.81204249996776
MR_543885_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([C:7](=[O:8])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C@:4]([C:2]([H:16])([H:17])[H:18])([C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[H:13])[C:7]1=[O:8],69.85078999999246
MR_679314_1,[C:1]([N:3]([H:10])[H:11])(/[C:4](=[N:8]\[H:12])[H:13])(/[C:5](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])[H:14])[O:7][H:9]>>[C:1](\[N:3]([H:10])[H:11])(=[C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[N:8]\[H:12])[H:13])[H:15])[H:14])[O:7][H:9],71.3655749999846
MR_650138_0,[C:1](/[N:3]=[C:4](/[N:5]([H:9])[H:10])[C:7]([C:2]([H:17])([H:18])[H:19])(/[C:6](=[N:8]/[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])/[C:6](=[N:8]/[H:11])[H:12])([H:14])([H:15])[H:16],71.15348000002072
